*** Cascode Diffpair Amplifier ***

.param scale_n1 = '2m / 3.59734e-04'
.param scale_n2 = '2m / 3.71917e-04'
.param scale_p =  '2m / 1.368662e-04'

* Include PDK model library
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* Power
Vdd Vdd 0 DC 1.8
Vb1 Vb1 0 DC 0.35
Vb2 Vb2 0 DC -0.15
Vb3 Vb3 0 DC 1.59
Vin1 Vin+ 0 DC 1.245 AC 0.5
Vin2 Vin- 0 DC 1.245 AC -0.5
Itail Nbias 0 DC 4m

*** Circuit ***
XP1 Vdd Vb1 N11 Vdd MY_PFET m='scale_p'
XP2 N11 Vb2 Vout+ N11 MY_PFET m='scale_p'
XN1 Vout+ Vb3 N12 0 MY_NFET m='scale_n2'
XN2 N12 Vin+ Nbias 0 MY_NFET m='scale_n1' 

XP3 Vdd Vb1 N21 Vdd MY_PFET m='scale_p'
XP4 N21 Vb2 Vout- N11 MY_PFET m='scale_p'
XN3 Vout- Vb3 N22 0 MY_NFET m='scale_n2'
XN4 N22 Vin- Nbias 0 MY_NFET m='scale_n1'

* Parameterized Subcircuits
.subckt MY_NFET Vd Vg Vs Vb W_val=5 L_val=0.15
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1
.ends MY_NFET

.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
   XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1 
.ends MY_PFET

.control
    op
    print v(vout+) v(vout-) v(n11) v(n12) v(n21) v(n22)
    print all
.endc

.end