*** Cascode Diffpair Amplifier - AC ***

.param scale_n1 = '2m / 3.59734e-04'
.param scale_n2 = '2m / 3.71917e-04'
.param scale_nload = '4m / 1.13377e-04'
.param scale_p =  '2m / 1.368662e-04'

* Include PDK model library
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* Power
Vdd Vdd 0 DC 1.8
Vb1 Vb1 0 DC 0.35
Vb2 Vb2 0 DC -0.15
Vb3 Vb3 0 DC 1.59
Vin Vcm 0 DC 1.245
Vb  Vb  0 DC 0.9

Vtest Vout_p 0 DC 0

*** Circuit ***
XP1 Vdd Vb1 N11 Vdd MY_PFET m='scale_p'
XP2 N11 Vb2 Vout_p N11 MY_PFET m='scale_p'
XN2 Vout_p Vb3 N12 0 MY_NFET m='scale_n2'
XN1 N12 Vcm Nbias 0 MY_NFET m='scale_n1' 

XP3 Vdd Vb1 N21 Vdd MY_PFET m='scale_p'
XP4 N21 Vb2 Vout_n N11 MY_PFET m='scale_p'
XN4 Vout_n Vb3 N22 0 MY_NFET m='scale_n2'
XN3 N22 Vcm Nbias 0 MY_NFET m='scale_n1'

XNload Nbias Vb 0 0 MY_NFET W_val=5 L_val=0.30 m='scale_nload'

* Parameterized Subcircuits
.subckt MY_NFET Vd Vg Vs Vb W_val=5 L_val=0.15
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1
.ends MY_NFET

.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
   XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1 
.ends MY_PFET

.control
    dc Vtest 0 1.8 0.01
    let vds1 = v(n12) - v(nbias)
    let vgs1 = v(vcm) - v(nbias)
    let Vth1 = @m.xn1.xmn.msky130_fd_pr__nfet_01v8[vth]
    let vov1 = vgs1 - Vth1
    plot vds1 vov1

    let vds2 = v(vout_p) - v(n12)
    let vgs2 = v(vb3) - v(n12)
    let Vth2 = @m.xn2.xmn.msky130_fd_pr__nfet_01v8[vth]
    let vov2 = vgs2 - Vth2
    plot vds2 vov2

    let vds3 = v(vout_p) - v(n11)
    let vgs3 = v(vb2) - v(n11)
    let Vth3 = @m.xp2.xmp.msky130_fd_pr__pfet_01v8[vth]
    let vov3 = vgs3 + Vth3
    plot vds3 vov3

    let vds4 = v(n11) - v(vdd)
    let vgs4 = v(vb1) - v(vdd)
    let Vth4 = @m.xp1.xmp.msky130_fd_pr__pfet_01v8[vth]
    let vov4 = vgs4 + Vth4
    plot vds4 vov4
.endc

.end