*** Pmos ***

* Dimensions
.param W=5 L=0.30

Vds Vd 0 DC -0.5
Vgs Vg 0 DC -1.45

* Device under test: drain gate source bulk
XMP Vd Vg 0 0 sky130_fd_pr__pfet_01v8 w=W l=L nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1

* Sky130 model library and corner
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.save all @m.xmp.msky130_fd_pr__pfet_01v8[vth]
.save all @m.xmp.msky130_fd_pr__pfet_01v8[gm]
.save all @m.xmp.msky130_fd_pr__pfet_01v8[gds]

.control 
    op
    save all @m.xmp.msky130_fd_pr__pfet_01v8[vth]
    save all @m.xmp.msky130_fd_pr__pfet_01v8[gm]
    save all @m.xmp.msky130_fd_pr__pfet_01v8[gds]
    print all
.endc

.end